US07982071B2
A solution of N,N′-bis(tert-butoxycarbonyl)-1H-pyrazole-1-carboxamidine (0.71 g, 2.28 mmol) and (3-(cyclohexylmethoxy)phenyl)methanamine (0.50 g, 2.28 mmol) in acetonitrile (15 ml) was stirred at 50° C. for 18 h under argon. After cooling to room temperature, a white solid was formed, collected via filtration, and dried under vacuum to give (Z)-tert-butyl (tert-butoxycarbonylamino)(3-(cyclohexylmethoxy)benzylamino)methylenecarbamate. Yield (400 mg, 38%). 1H NMR (400 MHz, DMSO-d6) δ 11.47 (s, 1H), 8.61 (t, J=6.0 Hz, 1H), 7.20 (t, J=8.0 Hz, 1H), 6.77-6.86 (m, 3H), 4.44 (d, J=5.6 Hz, 2H), 3.72 (d, J=6.4 Hz, 2H), 1.60-1.80 (m, 6H), 1.45 (s, 9H), 1.36 (s, 9H), 0.95-1.25 (m, 5H).

reactant | N,N′-bis(tert-butoxycarbonyl)-1H-pyrazole-1-carboxamidine | 2.28 mmol, 0.71 g | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1N=CC=C1 | C14H22N4O4
reactant | (3-(cyclohexylmethoxy)phenyl)methanamine | 2.28 mmol, 0.50 g | C1(CCCCC1)COC=1C=C(C=CC1)CN | C14H21NO
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | (Z)-tert-butyl (tert-butoxycarbonylamino)(3-(cyclohexylmethoxy)benzylamino)methylenecarbamate | C(C)(C)(C)OC(=O)N\C(\NCC1=CC(=CC=C1)OCC1CCCCC1)=N/C(OC(C)(C)C)=O | C25H39N3O5
